US04066655
Ethyl 1-ethyl-8-chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]pyridine-3-carboxylate
Prepared from ethyl 8-chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]pyridine-3-carboxylate (3.19 g, 0.01 mole) and ethyl iodide (6.24 g, 0.04 mole) by the method described for Example 9. Recrystallization from DMF gave white crystals (2.7 g, 78%), m.p. 257°-259°.

reactant | ethyl 8-chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]pyridine-3-carboxylate | 0.01 mole, 3.19 g | ClC=1C=CC2=C(C(C=3NC=C(C(C3O2)=O)C(=O)OCC)=O)C1 | C15H10ClNO5
reactant | ethyl iodide | 0.04 mole, 6.24 g | C(C)I | C2H5I
product | Ethyl 1-ethyl-8-chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]pyridine-3-carboxylate | 2.7 g, 78% | C(C)N1C2=C(C(C(=C1)C(=O)OCC)=O)OC1=C(C2=O)C=C(C=C1)Cl | C17H14ClNO5
